data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1CN(C2C1CCC([C:20]2=[O:21])Br)C.[C-:10]#N.C[OH+][K]>>CC1CN(C2C1CCC([C:20]2([C:10]#N)[O-:21])Br)C.C[OH+][K] 10=20;20,21=21
[H:20][O+:21]=C(CCCO)O.[OH2:10]>>[H:20][OH2+:10].C(CC(=[O:21])O)CO 10=20;20,21=21
[H:20][CH:21]1C(=O)CC[C+:22]1C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:22]1=[CH:21]C(=O)CC1 10=20;20,21=21,22
[H:20][OH+:21]C(C)(CC)O.[OH2:10]>>CCC(C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][OH2+:21].CCSC[CH:10]=[C:11](N)[O-:12]>>[H:20][CH:10](CSCC)[C:11](=[O:12])N.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:10][BH3-:11].[C-]#C[CH:20]=[O:21]>>[H:10][CH:20](C#[C-])[O-:21].[BH3:11] 10,11=10,20;20,21=21
[H:20][CH:21](C)C#N.[NH2-:10]>>[H:20][NH2:10].C[CH-:21]C#N 10=20;20,21=21
C[Si:20](C)(C)Cl.C(CO)[OH:10]>>C[Si-:20](C)(C)([OH+:10]CCO)Cl 10=20,
CCC1=C(C=C(C=C1)[S+:21]2[CH2:20]C2C)C3CCCCC3.CC[NH:10]CC(C)C.CCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCC1=C(C=C(C=C1)[S:21]C(C)[CH2:20][NH+:10](CC)CC(C)C)C2CCCCC2.CCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21](CC)C(CCC=O)(O)OC(=O)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CCC=O)(O)OC(=O)C 10=20;20,21=21
[B:20]1(C2CCCC1CCC2)OC(=CC)C.CC=[O:10]>>[B-:20]1(C2CCCC1CCC2)(OC(=CC)C)[O+:10]=CC 10=20,
[H:20][CH:21](CC(=O)C1=CC(=CC(=C1)C(=O)CCC(=O)C)C(=O)CCC(=O)C)[C:22](=[NH2+:23])C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC(=O)CCC(=O)C1=CC(=CC(=C1)C(=O)C[CH:21]=[C:22](C)[NH2:23])C(=O)CCC(=O)C.C(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(C1=C(C=CC=C1)C(=NCC2=CC=CC=C2)O)O.[OH2:10]>>[H:20][OH2+:10].C1=CC=C(C=C1)CN=C(C2=C(C=CC=C2)C(=[O:21])O)O 10=20;20,21=21
CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)C[S+](C)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F>>CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)C[S+](C)O[C:20](=[O:10])C(F)(F)F.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(CC)N(C)C.[OH2:10]>>[H:20][OH2+:10].CCC(N(C)C)[OH:21] 10=20;20,21=21
C[O+:21]=[CH:20]CC1=CC=CC=C1.[OH2:10]>>C[O:21][CH:20](CC1=CC=CC=C1)[OH2+:10] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCC.CCOC(=O)N[N-:10]C(=O)OCC.CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O[P+](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)C)C>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-:21].CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O[P+](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)C)C 10=20;20,21=21
CCCC[Sn-:10](CCCC)(CCCC)([O+:11](CC)CC)F>>CCCC[Sn:10](CCCC)(CCCC)F.CC[O:11]CC 10,11=11
[BH3-][OH:10].[CH2:20]=[OH+:21]>>[BH3-][OH+:10][CH2:20][OH:21] 10=20;20,21=21
CC12CCC(CC1CCC3C2CCC4(C3CC[C:20]4([OH2+:21])[O:10]CCO)C)O.CS(=O)(=O)[O-]>>CC12CCC(CC1CCC3C2CCC4(C3CC[C:20]4=[O+:10]CCO)C)O.[OH2:21].CS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21](C)C(C1(CC[NH+](CC1)C)C2=CC=CC=C2)(N)OC.[O-:10]S(=O)(=O)[O-]>>C[NH+]1CCC(CC1)(C2=CC=CC=C2)C(N)(OC)[O:21]C.[H:20][O:10]S(=O)(=O)[O-] 10=20;20,21=21
C[C:10](=[C:11](N(C)C)[O-:12])Br.[Br:20][Br:21]>>C[C:10]([C:11](=[O:12])N(C)C)(Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
C[O:10][Ti-](Cl)(Cl)(Cl)Cl.C[Si:20](C)(C)C[C+]=C>>C[O+:10]([Si-:20](C)(C)(C)C[C+]=C)[Ti-](Cl)(Cl)(Cl)Cl 10=20,
[H:20][OH+:21]C(C=C)(O)OC(=O)C.[OH2:10]>>CC(=O)OC(C=C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][O:21]C(=O)C.CCOC(=O)C(C1C=C(C=CC1=O)[O-:10])C(=[NH2+])COC.CCOC(=O)C>>[H:20][O:10]C1=CC(C(=O)C=C1)C(C(=[NH2+])COC)C(=O)OCC.CC(=O)[O-:21].CCOC(=O)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C(=CO1)C(F)(F)F 10=20;20,21=21,22
CC[O:10][CH2:20][Cl:21].CO>>CC[O+:10]=[CH2:20].[Cl-:21].CO 10=20;20,21=21
COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)[C-:10]2[S+:20](C)[O:21]C(=O)C(F)(F)F.CC1=CC(=[NH+]C(=C1)C(C)(C)C)C(C)(C)C.C(=O)(C(F)(F)F)[O-]>>COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)[C:10]2=[S+:20]C.C(=O)(C(F)(F)F)[O-:21].CC1=CC(=[NH+]C(=C1)C(C)(C)C)C(C)(C)C.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
C[C:20](=[O+:21]P(=O)(Cl)Cl)NCCC1=CC(=CC=C1)OC.[Cl-:10]>>C[C:20](NCCC1=CC(=CC=C1)OC)([O:21]P(=O)(Cl)Cl)[Cl:10] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)[N+](=O)[O-])Br.[Br-:10]>>[H:20][Br:10].C1=C(O[CH:22]=[C:21]1Br)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)(O)[O:10]CC>>[H:20][O+:10](CC)C(C)(N(CC)CC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1CC([C:24](=[O+:25][Li-]N(C(C)C)C(C)C)[C:23](=[CH:22]1)C)(C)CC=C(C)C.[Li-]([N:10](C(C)C)C(C)C)[O+]=C1C(=CCCC1(C)CC=C(C)C)C>>[H:20][N+:10]([Li-][O+]=C1C(=CCCC1(C)CC=C(C)C)C)(C(C)C)C(C)C.[Li-](N(C(C)C)C(C)C)[O:25][C:24]1=[C:23]([CH:22]=[CH:21]CC1(C)CC=C(C)C)C 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][C:21](C)([CH:22]=[O:23])C(C)O.CC[O-:10]>>[H:20][O:10]CC.CC([C:21](=[CH:22][O-:23])C)O 10=20;22,23=23;20,21=21,22
C[CH+:20][O:10][Cu]>>C[CH:20]=[O+:10][Cu] 10=20,
C1C[S+:21]=[CH:20]S1.[OH2:10]>>C1CS[CH:20]([S:21]1)[OH2+:10] 10=20;20,21=21
C[C:20]1(SCC[S:10]1)[OH2+:21]>>C[C:20]1=[S+:10]CCS1.[OH2:21] 10=20;20,21=21
[H:20][NH:21]C(=O)C=C.[C-:10]#N>>[H:20][C:10]#N.C=CC(=O)[NH-:21] 10=20;20,21=21
[H:20][OH+:21]C.C1COC2=C1CC(C3=C2C=CC=C3)(C=O)[OH:10]>>[H:20][OH+:10]C1(CC2=C(C3=C1C=CC=C3)OCC2)C=O.C[OH:21] 10=20;20,21=21
